US06127341
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (313 mg, 1.63 mmol) was added at 0° C. to a solution of (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (537 mg, 1.63 mmol) and 1-hydroxy-7-azabenzotriazole (222 mg, 1.63 mmol) in dichloromethane (20 ml) and N,N-dimethylformamide (10 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of the crude hydrochloride salt of (2S)-6-acetylamino-2-((2R)-2-(methylamino)-3-phenylpropionylamino)hexanoic acid methylamide (710 mg, 1.63 mmol) and ethyldiisopropylamine (0.84 ml, 4.89 mmol) were added subsequently, The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (70 ml) and washed with a 1 0% aqueous solution of sodium hydrogen sulfate (70 ml). The aqueous solution was extracted with ethyl acetate (2×60 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (70 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using dichloromethane./methanol (1 0: 1) as eluent to give 748 mg of N-((1R)-1-{N-[(1R)-1-((1S)-5-(acetylamino)-1-(methylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.63 mmol, 313 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 1.63 mmol, 537 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1.63 mmol, 222 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2S)-6-acetylamino-2-((2R)-2-(methylamino)-3-phenylpropionylamino)hexanoic acid methylamide | 1.63 mmol, 710 mg | CNC([C@H](CCCCNC(C)=O)NC([C@@H](CC1=CC=CC=C1)NC)=O)=O | C19H30N4O3
reactant | ethyldiisopropylamine | 4.89 mmol, 0.84 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | N-((1R)-1-{N-[(1R)-1-((1S)-5-(acetylamino)-1-(methylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 748 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)C(N[C@@H](CCCCNC(C)=O)C(NC)=O)=O)=O)=O | C38H51N5O6
